US04616014
A solution of acetylacetone (2.415 g) in methanol (10 ml) was added to a mixture of 6-(4-chlorophenyl)-3-hydrazino-5-methyl-1,2,4-triazine (4.946 g) and acetic acid (3 drops) in methanol (20 ml), and the solution was refluxed for 2 hours with stirring and allowed to stand at room temperature. The resultant crystals were collected by filtration, washed with cold methanol, and dried to give 6-(4-chlorophenyl)-3-(3,5-dimethylpyrazol-1-yl)-5-methyl-1,2,4-triazine (5.354 g), m.p. 151° to 152.5° C.

reactant | acetylacetone | 2.415 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 6-(4-chlorophenyl)-3-hydrazino-5-methyl-1,2,4-triazine | 4.946 g | ClC1=CC=C(C=C1)C1=C(N=C(N=N1)NN)C | C10H10ClN5
solvent | methanol | 10 ml | CO | CH4O
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
product | 6-(4-chlorophenyl)-3-(3,5-dimethylpyrazol-1-yl)-5-methyl-1,2,4-triazine | 5.354 g | ClC1=CC=C(C=C1)C1=C(N=C(N=N1)N1N=C(C=C1C)C)C | C15H14ClN5
